US05037834
2-Guanidino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
5-Acetyl-2-guanidino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (232.4 mg, 0.971 mmol) was mixed with ethanol (7 ml) and treated with an aqueous solution of sodium hydroxide (1.98 ml of a 1.46M solution, 2.9 mmol). The reaction mixture was heated to 81° for 72 hours, then concentrated in vacuo; the residue was purified by column chromatography (eluant: 89:10:1 of chloroform:methanol:concentrated ammonium hydroxide) to provide the title product as an oil (129.9 mg, 0.66 mmol, 68% yield).

reactant | 5-Acetyl-2-guanidino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.971 mmol, 232.4 mg | C(C)(=O)N1CC2=C(CC1)N=C(S2)NC(=N)N | C9H13N5OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-Guanidino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.66 mmol, 129.9 mg, 68% yield | N(C(=N)N)C=1SC=2CNCCC2N1 | C7H11N5S
